US07872014B2
To a solution of 2-hydroxy-3-methoxyphenylacetonitrile (1 g, 6.1 mmol) in DMF (12 mL) was added 1,1-dimethylethyl 4-{[(methylsulfonyl)oxy]methyl}piperidine-1-carboxylate (1.8 g, 6.1 mmol) and cesium carbonate (4.0 g, 12.2 mmol). The mixture was heated to 70° C. for 3 h and then cooled to rt. Water and ethyl acetate were added followed by brine to reduce emulsification. The layers were partitioned, and the aqueous phase was extracted with ethyl acetate. The organic extracts were combined, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (70% hexanes, 30% ethyl acetate) to provide 1.77 g of 1,1-dimethylethyl 4-({[2-(cyanomethyl)-6-(methyloxy)phenyl]oxy}methyl)piperidine-1-carboxylate (4.9 mmol, 81% yield) as a yellow syrup. 1H NMR (400 MHz, CDCl3): δ7.03 (t, 1H), 6.93 (dd, 1H), 6.88 (dd, 1H), 4.14 (br m, 2H), 3.88 (br d, 2H), 3.84 (s, 3H), 3.70 (s, 2H), 2.00 (m, 1H), 1.86 (br d, 2H), 1.47 (s, 9H), 1.35-1.25 (m, 2H).

reactant | 2-hydroxy-3-methoxyphenylacetonitrile | 6.1 mmol, 1 g | OC1=C(C=CC=C1OC)CC#N | C9H9NO2
reactant | 1,1-dimethylethyl 4-{[(methylsulfonyl)oxy]methyl}piperidine-1-carboxylate | 6.1 mmol, 1.8 g | CS(=O)(=O)OCC1CCN(CC1)C(=O)OC(C)(C)C | C12H23NO5S
reactant | cesium carbonate | 12.2 mmol, 4.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1-dimethylethyl 4-({[2-(cyanomethyl)-6-(methyloxy)phenyl]oxy}methyl)piperidine-1-carboxylate | 4.9 mmol, 1.77 g, 81% yield | C(#N)CC1=C(C(=CC=C1)OC)OCC1CCN(CC1)C(=O)OC(C)(C)C | C20H28N2O4
